### ISSUE TITLE
Add models and progress theorems for scalar unops and binops

### ISSUE THREAD

**Issue by hatoo** [AeneasVerif/aeneas#649]
Currently, we can't use progress tactic on xor expression due to lack of spec for xor.

```lean
@[progress]
theorem UScalar.xor_spec {ty} (x y : UScalar ty) :
  ∃ z, toResult (x ^^^ y) = ok z ∧ z.val = (x ^^^ y).val ∧ z.bv = x.bv ^^^ y.bv := by
  simp [toResult]
  rfl
```

`UScalar.xor_spec` should be in the library.
